US04308147
54.8 g. of 1-amino propane-1,1-diphosphonic acid and 40 g. of sodium hydroxide are dissolved in 150 cc. of water. 10 g. of sodium hydroxide dissolved in 40 cc. of water and 22 g. of crotonic acid dissolved in 50 cc. of water are added drop by drop simultaneously thereto while stirring vigorously. After continuing stirring for one hour, the temperature of the reaction mixture is increased to 100° C. and the reaction solution is boiled under reflux for 3 hours. It is then slightly acidified with hydrochloric acid. Any turbidity occurring thereby is removed by filtration. After treating the solution with an acid ion exchange agent, the N-(1-carboxy propyl)-1-amino propane-1,1-diphosphonic acid is obtained as an oily residue. This residue is mixed with 100 cc. of ethanol, the ethanol is decanted, and the residue is dried.

reactant | 1-amino propane-1,1-diphosphonic acid | NC(CC)(P(O)(=O)O)P(O)(=O)O | C3H11NO6P2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | crotonic acid | C(\C=C\C)(=O)O | C4H6O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | N-(1-carboxy propyl)-1-amino propane-1,1-diphosphonic acid | C(=O)(O)C(CC)NC(CC)(P(O)(=O)O)P(O)(=O)O | C7H17NO8P2
